US07777038B2
55.5 mg of potassium tert-butoxide was added to a DMSO solution (1 ml) of 90 mg of 5-(1-benzyl-8-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione, followed by stirring at room temperature for 1 hour. 29.8 μl of 4-iodobutane was added thereto, followed by stirring at room temperature for 2 hours. Water was added to the reaction liquid, potassium hydrogensulfate was added to the mixture, and the mixture was extracted with ethyl acetate. After washing with water, the extract was dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by preparative silica gel thin layer chromatography (dichloromethane:methanol=20:1), giving 42 mg (41% yield) of 5-(1-benzyl-8-butoxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione as a colorless amorphous solid.

reactant | potassium tert-butoxide | 55.5 mg | CC(C)([O-])C.[K+]
reactant | 5-(1-benzyl-8-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione | 90 mg | C(C1=CC=CC=C1)N1C(CCC2=C(C=CC(=C12)O)CC1C(NC(S1)=O)=O)=O | C20H18N2O4S
reactant | 4-iodobutane | 29.8 μl | ICCCC | C4H9I
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | Water | O | H2O
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 5-(1-benzyl-8-butoxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione | 42 mg, 41% yield | C(C1=CC=CC=C1)N1C(CCC2=C(C=CC(=C12)OCCCC)CC1C(NC(S1)=O)=O)=O | C24H26N2O4S
